US07074800B1
Using an analogous procedure to that described in Example 201, 7-hydroxy-4-(indol-6-ylamino)-6-methoxyquinazoline (98 mg, 0.32 mmol), (prepared as described for the starting material in Example 217), was reacted with 5-(2-hydroxyethyl)-4-methylthiazole (69 mg, 0.48 mmol) to give 6-methoxy-4-(indol-6-ylamino)-7-(2-(4-methylthiazol-5-yl)ethoxy)quinazoline (47 mg, 34%).

reactant | 7-hydroxy-4-(indol-6-ylamino)-6-methoxyquinazoline | 0.32 mmol, 98 mg | OC1=C(C=C2C(=NC=NC2=C1)NC1=CC=C2C=CNC2=C1)OC | C17H14N4O2
reactant | 5-(2-hydroxyethyl)-4-methylthiazole | 0.48 mmol, 69 mg | OCCC1=C(N=CS1)C | C6H9NOS
product | 6-methoxy-4-(indol-6-ylamino)-7-(2-(4-methylthiazol-5-yl)ethoxy)quinazoline | 47 mg, 34% | COC=1C=C2C(=NC=NC2=CC1OCCC1=C(N=CS1)C)NC1=CC=C2C=CNC2=C1 | C23H21N5O2S
